US07612114B2
6-(4-Hydroxyphenyl)-4-[4-(2-piperidin-1-ylethoxy)phenoxy]-5,6,7,8-tetrahydronaphthalen-1-ol
Synthesized from 4-[3-methoxy-7-(4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-1-yloxy]phenol and 1-(2-chloroethyl)piperidine hydrochloride according to an analogous synthetic method to Preparation Example 40, 1-{2-{4-[3-methoxy-7-(4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-1-yloxy]phenoxy}ethyl}piperidine (180 mg) was used according to an analogous synthetic method to Example 779 described below to provide the title compound (104 mg).

reactant | 4-[3-methoxy-7-(4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-1-yloxy]phenol | COC=1C=C(C=2CC(CCC2C1)C1=CC=C(C=C1)OC)OC1=CC=C(C=C1)O | C24H24O4
reactant | 1-(2-chloroethyl)piperidine hydrochloride | Cl.ClCCN1CCCCC1
reactant | 1-{2-{4-[3-methoxy-7-(4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-1-yloxy]phenoxy}ethyl}piperidine | 180 mg | COC=1C=C(C=2CC(CCC2C1)C1=CC=C(C=C1)OC)OC1=CC=C(OCCN2CCCCC2)C=C1 | C31H37NO4
product | 6-(4-Hydroxyphenyl)-4-[4-(2-piperidin-1-ylethoxy)phenoxy]-5,6,7,8-tetrahydronaphthalen-1-ol | 104 mg | OC1=CC=C(C=C1)C1CC=2C(=CC=C(C2CC1)O)OC1=CC=C(C=C1)OCCN1CCCCC1 | C29H33NO4
